US07393868B2
Mix 4-Methylsulfanyl-2-trifluoromethanesulfonyloxy-benzoic acid methyl ester (1.216 g, 3.682 mmol), 4,4,5,5-Tetramethyl-1,3,2-dioxaborolane (0.85 ml, 5.682 ), Et3N (1.55 ml, 11.121 mmol) and acetonitrile (40 ml) then heat to reflux for 16 hours. Dilute the reaction with EtOAc and wash with water. Concentrate under reduced pressure. Next add propane-2-sulfonic acid (4′-bromo-biphenyl-2-yl)-amide (0.532 g, 1.502 mmol) 2N Na2CO3 (7 ml, 14 mmol), 1,4-dioxane (35 ml) and tetrakis triphenyl phosphine palladium (0.177 g, 0.153 mmol). Heat to 80° C. for 16 hours. Cool the reaction, dilute with EtOAc, and wash with H2O, followed by saturated aqueous sodium chloride. Dry with Na2SO4 and concentrate under reduced pressure. Purify the reaction by flash chromatography (Silica gel-toluene then up to 20% EtOAc/Hexane) to give 5-Methylsulfanyl-3″-(propane-2-sulfonylamino)-[1,1′;4′,1″]terphenyl-2-carboxylic acid methyl ester (0.431 g, 63%). MS (m/e): 456(M+1).

reactant | 4-Methylsulfanyl-2-trifluoromethanesulfonyloxy-benzoic acid methyl ester | 3.682 mmol, 1.216 g | COC(C1=C(C=C(C=C1)SC)OS(=O)(=O)C(F)(F)F)=O | C10H9F3O5S2
reactant | 4,4,5,5-Tetramethyl-1,3,2-dioxaborolane | 0.85 ml | CC1(OBOC1(C)C)C | C6H13BO2
reactant | Et3N | 11.121 mmol, 1.55 ml | CCN(CC)CC | C6H15N
reactant | propane-2-sulfonic acid (4′-bromo-biphenyl-2-yl)-amide | 1.502 mmol, 2N, 7 ml, 0.532 g | BrC1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C(C)C | C15H16BrNO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | 1,4-dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-Methylsulfanyl-3″-(propane-2-sulfonylamino)-[1,1′;4′,1″]terphenyl-2-carboxylic acid methyl ester | 0.431 g, 63% | COC(=O)C=1C(=CC(=CC1)SC)C1=CC=C(C=C1)C1=CC(=CC=C1)NS(=O)(=O)C(C)C | C24H25NO4S2
